US06340759B1
Synthesis of 1-(1-cyclopropylpiperazin-4-yl)-3-(4-methoxyphenyl)isoquinoline dihydrochloride
1-Chloro-3-(4-methoxyphenyl)isoquinoline (514 mg), and 1-cyclopropylpiperazine hydrochloride salt (378 mg) described in JP-A 62-129273 were dissolved in dimethyl sulfoxide (7 ml), followed by the addition of potassium carbonate (788 mg), and the resulting mixture was stirred at 100° C. overnight. The reaction mixture was partitioned between ethyl acetate and water. The resulting organic layer was washed with water, dried (over MgSO4) and evaporated. The resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system). The resulting product was converted into a hydrochloride in a conventional manner, and then recrystallized from ethanol/isopropyl ether, to give the hydrochloride of the title compound as yellow crystals (136 mg, yield; 16%).

reactant | 1-Chloro-3-(4-methoxyphenyl)isoquinoline | 514 mg | ClC1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)OC | C16H12ClNO
reactant | 1-cyclopropylpiperazine hydrochloride salt | 378 mg | Cl.C1(CC1)N1CCNCC1
reactant | potassium carbonate | 788 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 7 ml | CS(=O)C | C2H6OS
product | 1-(1-cyclopropylpiperazin-4-yl)-3-(4-methoxyphenyl)isoquinoline dihydrochloride | 136 mg, yield; 16% | Cl.Cl.C1(CC1)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)OC | InChI=1S/C23H25N3O.2ClH/c1-27-20-10-6-17(7-11-20)22-16-18-4-2-3-5-21(18)23(24-22)26-14-12-25(13-15-26)19-8-9-19;;/h2-7,10-11,16,19H,8-9,12-15H2,1H3;2*1H
